US07423177B2
Mesyl Chloride (6.0 mmol) was added dropwise at 0° C. to a stirred solution of N,N-diethylaminopropanol (6.0 mmol), TEA (6.0 mmol) in anhydrous DCM (6 mL), and the mixture was stirred at the same temperature for 10 min, and at room temperature for additional 1 h. After the removal of the solvent in vacuo, the solid residue was mixed with 4-butyramidophenol (5.0 mmol), and K2CO3 (10 mmol) in anhydrous DMF (10 mL), following general procedure B. The crude product is purified using silica gel column chromatography 5% MeOH/DCM as eluent to yield 4-(N,N-diethylaminopropoxy)butyranilide (1.4 g).

reactant | Mesyl Chloride | 6.0 mmol | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | N,N-diethylaminopropanol | 6.0 mmol | C(C)N(CC)C(CC)O | C7H17NO
reactant | 4-butyramidophenol | 5.0 mmol | C(CCC)(=O)NC1=CC=C(C=C1)O | C10H13NO2
reactant | K2CO3 | 10 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(N,N-diethylaminopropoxy)butyranilide | 1.4 g | C(C)N(CC)CCCOCCCC(=O)NC1=CC=CC=C1 | C17H28N2O2
